US07648979B2
4-[5-(4-Cyclobutyl-[1,4]diazepane-1-carbonyl)-1H-indole-2-carbonyl]-piperazine-1-carboxylic acid ethyl ester
The title compound was synthesized in analogy to example 47, from 4-[2-(4-ethoxycarbonyl-piperazine-1-carbonyl)-1H-indole-5-carbonyl]-[1,4]diazepane-1-carboxylic acid tert-butyl ester and cyclobutanone. Light-yellow solid. MS (m/z): 482.4 (M+H)+.

reactant | 4-[2-(4-ethoxycarbonyl-piperazine-1-carbonyl)-1H-indole-5-carbonyl]-[1,4]diazepane-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCN(CCC1)C(=O)C=1C=C2C=C(NC2=CC1)C(=O)N1CCN(CC1)C(=O)OCC | C27H37N5O6
reactant | cyclobutanone | C1(CCC1)=O | C4H6O
product | 4-[5-(4-Cyclobutyl-[1,4]diazepane-1-carbonyl)-1H-indole-2-carbonyl]-piperazine-1-carboxylic acid ethyl ester | C(C)OC(=O)N1CCN(CC1)C(=O)C=1NC2=CC=C(C=C2C1)C(=O)N1CCN(CCC1)C1CCC1 | C26H35N5O4
